US05571821
N-(3-Ethyl-4-methyl-5-isoxazolyl)benzenesulfonamide was prepared as described in Example 42 from 5-amino-3-ethyl-4-methylisoxazole and benzenesulfonyl chloride in 68% yield. Purification was achieved by preparative HPLC to give a white solid, m.p. 94°-95° C.

reactant | 5-amino-3-ethyl-4-methylisoxazole | NC1=C(C(=NO1)CC)C | C6H10N2O
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-(3-Ethyl-4-methyl-5-isoxazolyl)benzenesulfonamide | 68% yield | C(C)C1=NOC(=C1C)NS(=O)(=O)C1=CC=CC=C1 | C12H14N2O3S
